US20010006969A1
2-Chloro-4-(trans-cinnamylamino)-7-methylthieno[3,2-d] pyrimidine
To 10 ml of a solution of 438 mg (2.0 mmol) of 2,4-dichloro-7-metylthieno[3,2-d]pyrimidine and 445 mg (4.4 mmol) of triethylamine in DMF was added 339 mg (2.0 mmol) of trans-cinnamylamine hydrochloride under ice cooling. The reaction mixture was stirred at the same temperature for one hour and then allowed to resume room temperature, followed by stirring for further 2 hours. After completion of the reaction, ice water was added to the reaction mixture, followed by extraction with ethyl acetate (50 ml×3). After the organic layer was washed successively with 1N hydrochloric acid, water and brine and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=¼) to give 341 mg (yield: 54.0%) of the title compound.

reactant | 2,4-dichloro-7-metylthieno[3,2-d]pyrimidine | 2.0 mmol, 438 mg | ClC=1N=C(C2=C(N1)C(=CS2)C)Cl | C7H4Cl2N2S
reactant | triethylamine | 4.4 mmol, 445 mg | C(C)N(CC)CC | C6H15N
reactant | trans-cinnamylamine hydrochloride | 2.0 mmol, 339 mg | Cl.C(\C=C\C1=CC=CC=C1)N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Chloro-4-(trans-cinnamylamino)-7-methylthieno[3,2-d] pyrimidine | 341 mg, yield: 54.0% | ClC=1N=C(C2=C(N1)C(=CS2)C)NC\C=C\C2=CC=CC=C2 | C16H14ClN3S
